US05705497
1.3 g of ethyl chloride dissolved in 10 ml of toluene are added dropwise with stirring to a solution of 10 g of 3-(3-piperazinopropoxycarbonyl)-5-[1,2,3,4-tetrahydro-1-(3,4-dimethoxybenzoyl)-6-quinolyl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one and 1.8 g of triethylamine in 100 ml of toluene, and the mixture is stirred with heating for one hour. The solvent is removed and the mixture is worked up in the conventional manner to give 3-[3-(1-ethyl-4-piperazinyl)-propoxycarbonyl]-5-[1,2,3,4-tetrahydro-1-(3,4-dimethoxybenzoyl)-6-quinolyl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one.

reactant | ethyl chloride | 1.3 g | C(C)Cl | C2H5Cl
reactant | 3-(3-piperazinopropoxycarbonyl)-5-[1,2,3,4-tetrahydro-1-(3,4-dimethoxybenzoyl)-6-quinolyl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | 10 g | N1(CCNCC1)CCCOC(=O)N1C(SC(C(=N1)C=1C=C2CCCN(C2=CC1)C(C1=CC(=C(C=C1)OC)OC)=O)C)=O | C30H37N5O6S
reactant | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[3-(1-ethyl-4-piperazinyl)-propoxycarbonyl]-5-[1,2,3,4-tetrahydro-1-(3,4-dimethoxybenzoyl)-6-quinolyl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | C(C)N1CCN(CC1)CCCOC(=O)N1C(SC(C(=N1)C=1C=C2CCCN(C2=CC1)C(C1=CC(=C(C=C1)OC)OC)=O)C)=O | C32H41N5O6S
